US08222430B2
Synthesis of (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene) pentanethioamide
Lawesson reagent was added to tetrahydrofuran solution including 2.81 g of (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene)pentanamide. The resulting solution was heated under reflux for one night and cooled to room temperature, followed by adding saturated sodium bicarbonate water to extract. The water layer was extracted with ethyl acetate, and the organic layer was mixed and dried with anhydrous magnesium sulfate, then filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 2.17 g of the title compound.

reactant | Lawesson reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene)pentanamide | 2.81 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC\C(\C(=O)NC1=CC=CC=C1)=C/SC1=CC=CC=C1 | C34H37NO2SSi
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene) pentanethioamide | 2.17 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC\C(\C(NC1=CC=CC=C1)=S)=C/SC1=CC=CC=C1 | C34H37NOS2Si
